US04137406
7-[α-Methylsulfonyl(2-furyl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
7-[α-Methylsulfonyl(2-furyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (366.4 mg), 128 mg of 2-mercapto-5-methyl-1,3,4-thiadiazole and 68 mg of sodium bicarbonate were dissolved in a 0.1N phosphate buffer (pH 6.4), and the solution was stirred at 60° C. for 8 hours. Then, 20 ml of water, and 50 ml of ethyl acetate were added for extraction. The aqueous layer was acidified with 1H hydrochloric acid to a pH of 2, and extracted with ethyl acetate three times. The organic layer was washed four times with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure to obtain the product in powder form.

reactant | 7-[α-Methylsulfonyl(2-furyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 366.4 mg | CS(=O)(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C=1OC=CC1 | C17H18N2O9S2
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 128 mg | SC=1SC(=NN1)C | C3H4N2S2
reactant | sodium bicarbonate | 68 mg | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | phosphate | 0.1N, pH 6.4 | P(=O)([O-])([O-])[O-]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 7-[α-Methylsulfonyl(2-furyl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | CS(=O)(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)C=1OC=CC1 | C18H18N4O7S4
